US08426585B2
Step 1) (5)-5-((tetrahydro-2H-pyran-2-yloxy)methyl)pyrrolidin-2-one
To a mixture of (S)-5-(hydroxymethyl)pyrrolidin-2-one (1.0 g, 8.7 mmol, Aldrich) and DHP (1.46 g, 17.4 mmol, Alfa) in 20 mL of dichloromethane was added PPTS (0.437 g, 1.74 mmol, Aldrich) in portions. The reaction mixture was stirred at rt for 4 hrs, and was quenched with 20 mL of saturated NaHCO3 aqueous solution. The resulted mixture was extracted with dichloromethane (25 mL×2). The combined organic phases were dried over Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (EtOAc) to give the title compound (as a diastereomer mixture) as colorless oil (0.9 g, 52%).

reactant | (S)-5-(hydroxymethyl)pyrrolidin-2-one | 8.7 mmol, 1.0 g | OC[C@@H]1CCC(N1)=O | C5H9NO2
reactant | DHP | 17.4 mmol, 1.46 g | C1CC=COC1 | C5H8O
reactant | PPTS | 1.74 mmol, 0.437 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (5)-5-((tetrahydro-2H-pyran-2-yloxy)methyl)pyrrolidin-2-one | O1C(CCCC1)OC[C@@H]1CCC(N1)=O | C10H17NO3
